* source PG1
X_X1         0 N01289 N00794 N00688 N01338 N01289 N01069 N00688 555D PARAMS:
+  MAXFREQ=3E6
D_D1         N01069 N01289 D1N4002 
R_R1         N01069 N00688  10k  
R_R2         N01289 N01069  3.6k  
R_R3         0 N00794  100k  
C_C1         0 N01289  0.1u  
V_V1         N00688 0 5Vdc
C_C2         0 N01338  0.01u  
