* source PG2
C_C1         0 N00467  1u  
X_U1         N00605 N00467 N00376 N00413 N00669 uA741
V_V1         N00376 0 12Vdc
R_R3         N00467 N00669  1k  
V_V2         0 N00413 12Vdc
R_R2         N00605 0  10k  
R_R1         N00605 N00669  10k  
