* source PG3
V_V3         N00819 0 12Vdc
X_U1         N00568 N00608 N01066 N01029 N01147 uA741
R_R1         0 N01221  1k  
V_V4         N01066 0 12Vdc
V_V7         N00608 0  
+SIN 0 10V 50Hz 0 0 0
X_U2         N00608 N00728 N00819 N00765 N01184 uA741
V_V5         N00568 0 3Vdc
V_V6         N00728 0 3Vdc
D_D1         N01147 N01221 D1N4002 
D_D2         N01184 N01221 D1N4002 
V_V1         0 N01029 12Vdc
V_V2         0 N00765 12Vdc
